US04675324
A solution of 6-hydroxy-4-oxo-1-propionyl-1,2,3,4-tetrahydroquinoline (1.643 g) and N-chlorosuccinimide (1.068 g) in N,N-dimethylformamide (10 ml) was stirred at room temperature for 18 hours, poured into water, and extracted with ethyl acetate. The extract was washed with water, dried over magnesium sulfate, and evaporated in vacuo. The residual solid was recrystallized from chloroform to give 5-chloro-6-hydroxy-4-oxo-1-propionyl-1,2,3,4-tetrahydroquinoline (1.74 g).

reactant | 6-hydroxy-4-oxo-1-propionyl-1,2,3,4-tetrahydroquinoline | 1.643 g | OC=1C=C2C(CCN(C2=CC1)C(CC)=O)=O | C12H13NO3
reactant | N-chlorosuccinimide | 1.068 g | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 5-chloro-6-hydroxy-4-oxo-1-propionyl-1,2,3,4-tetrahydroquinoline | 1.74 g | ClC1=C2C(CCN(C2=CC=C1O)C(CC)=O)=O | C12H12ClNO3
